US04758577
4-(5H-Dibenzo[a,d]cyclohepten-5-yl)-1-(4-dimethylaminobenzyl)piperidine
1.00 gram (3.47 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine, 0.52 gram (3.47 millimoles) of p-dimethylaminobenzaldehyde, 0.63 gram (10.0 millimoles) of sodium cyanoborohydride and 10 milliliters of ethanol were stirred together at room temperature for 24 hours. At the end of this period, the mixture was diluted with 150 milliliters of ethyl acetate and the ethyl acetate solution washed successively with two 50 milliliter portions of 15 percent aqueous sodium bisulfite, one 50 milliliter portion of saturated sodium bicarbonate, and one 100 milliliter portion of brine and then dried over magnesium sulfate. The solvent was vaporized from the dried solution in vacuo to obtain a yellow oil. The oil was flash chromatographed on silica gel with 50/50 ethyl acetate/hexane as eluant to obtain 250 milligrams of a colorless oil which crystallized on standing overnight. The product after recrystallization from acetonitrile had a melting point of 163°-165° C. Elemental analyses of the product were as follows:

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 3.47 millimoles, 1.00 gram | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
reactant | p-dimethylaminobenzaldehyde | 3.47 millimoles, 0.52 gram | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | sodium cyanoborohydride | 10.0 millimoles, 0.63 gram | C(#N)[BH3-].[Na+]
reactant | ethanol | 10 milliliters | C(C)O | C2H6O
solvent | ethyl acetate | 150 milliliters | C(C)(=O)OCC | C4H8O2
product | 4-(5H-Dibenzo[a,d]cyclohepten-5-yl)-1-(4-dimethylaminobenzyl)piperidine | 250 milligrams | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)CC3=CC=C(C=C3)N(C)C | C29H32N2
